US04874758
4-Methyl-2H-furo[3,2-b]indole-3(4H)-one (See Scheme VIII, Formula XII6Wherein R1 is hydrogen and R2 is methyl)
A mixture of 47.0 g (0.18 mole) of 3-hydroxy-4-methyl-4H-furo[3,2-b]indole-2-carboxylic ethyl ester (Prep. described in U.S. patent application Ser. No. 369,448) in 450 ml of 95% ethanol was treated with 450 ml of 30% aqueous sodium hydroxide. The mixture was stirred at reflux for two hours, cooled, added to 3.0 kg ice/water, and acidified with 6.0 N hydrochloric acid. The product was filtered, washed with water, and recrystallized from ethanol-water to yield 17.9 g (53% yield) of the product, mp 113°-116° C. An additional recrystallization as above raised the mp to 115.5°-118° C.

reactant | 3-hydroxy-4-methyl-4H-furo[3,2-b]indole-2-carboxylic ethyl ester | 0.18 mole, 47.0 g | C(C)OC(=O)C1=C(C=2N(C=3C=CC=CC3C2O1)C)O | C14H13NO4
reactant | sodium hydroxide | 450 ml | [OH-].[Na+]
reactant | hydrochloric acid | 6.0 N | Cl | ClH
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | 4-Methyl-2H-furo[3,2-b]indole-3(4H)-one | 17.9 g, 53% yield | CN1C2=C(C=3C=CC=CC13)OCC2=O | C11H9NO2
